US05332739
Synthesis of 1,3-dimethyl-6-[4-(3-[4-methylthiophenoxy]propyl)piperazin-1-yl]-2,4 (1H,3H)-pyrimidinedione.hydrochloride (Compound 98):
The same treatment as in Example 3 was effected except that 4-chlorophenol was replaced with 4-methylthiophenol, thereby obtaining 12.5 g of the crystals of 1,3-dimethyl-6-[4-(3-[4-methylthiophenoxy]propyl)piperazin-1-yl]-2,4(1H,3H)-pyrimidinedione.

reactant | 4-chlorophenol | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | 4-methylthiophenol | CC1=CC=C(C=C1)S | C7H8S
reactant | 1,3-dimethyl-6-[4-(3-[4-methylthiophenoxy]propyl)piperazin-1-yl]-2,4(1H,3H)-pyrimidinedione | CN1C(N(C(C=C1N1CCN(CC1)CCCSC1=CC=C(C=C1)C)=O)C)=O | C20H28N4O2S
product | 1,3-dimethyl-6-[4-(3-[4-methylthiophenoxy]propyl)piperazin-1-yl]-2,4 (1H,3H)-pyrimidinedione.hydrochloride | 12.5 g | Cl.CN1C(N(C(C=C1N1CCN(CC1)CCCSC1=CC=C(C=C1)C)=O)C)=O | InChI=1S/C20H28N4O2S.ClH/c1-16-5-7-17(8-6-16)27-14-4-9-23-10-12-24(13-11-23)18-15-19(25)22(3)20(26)21(18)2;/h5-8,15H,4,9-14H2,1-3H3;1H
